US04757146
Utilizing the procedure above and substituting N-butylanilinosuccinimide for the 3-amino-N-phenylsuccinimide yields 93% of N-butylanilinomaleimide which upon crystallization from isopropyl alcohol has a m.p. of 128°-130° C. Anal. Calcd. for C14H16N20 2: 68.85; H, 6.56; N, 11.48. Found: C, 68.58; H, 6.45; N, 11.38.

reactant | N-butylanilinosuccinimide | C(CCC)N1C(C(CC1=O)NC1=CC=CC=C1)=O | C14H18N2O2
reactant | 3-amino-N-phenylsuccinimide | NC1CC(=O)N(C1=O)C1=CC=CC=C1 | C10H10N2O2
product | N-butylanilinomaleimide | 93% | C(CCC)N1C(C(=CC1=O)NC1=CC=CC=C1)=O | C14H16N2O2
